* source ESD
R_R1         OUT1 VCC  1k TC=0,0 
R_R2         N14615 IN  47k TC=0,0 
Q_Q1         OUT1 N14615 0 Q2N3904
V_V1         VCC 0 5
U_DSTM1         STIM(1,1) $G_DPWR 0 IN IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5m 1
+REPEAT FOREVER
+ +0.5m 0
+  +0.5m 1
+ ENDREPEAT
Q_Q2         OUT2 N15413 0 Q2N3904
R_R3         OUT2 VCC  1k TC=0,0 
R_R5         0 N15413  47k TC=0,0 
R_R4         N15413 IN  47k TC=0,0 
Q_Q3         N15952 N15920 0 Qmmbt3904tt1
R_Rd         N16174 VCC  20 TC=0,0 
R_R7         N15920 IN  10k TC=0,0 
D_D1         N16174 N15952 upwledxx 
