* source EXAMPLE
R_R1         N00189 N00196  2k TC=0,0 
R_R2         N00196 N00175  1k TC=0,0 
R_R3         N00189 0  1k TC=0,0 
R_R4         N00228 N00196  1k TC=0,0 
R_R5         N00232 N00189  1k TC=0,0 
V_V1         N00175 0 6
R_R6         N00232 N00228  1t TC=0,0 
