* source U1A7404
X_U1A         IN N14473 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND IN IO_STM IO_LEVEL=0 
+ 0 0
+ +.5mS 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
X_U2A         IN N14582 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V1         VDD 0 5
R_R1         N14582 N15700  3.3k TC=0,0 
X_U2B         IN N15230 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R2         N15230 VDD  3.3k TC=0,0 
D_D2         N15687 N15700 D1N4148 
C_C2         0 N15700  100u  TC=0,0 
C_C1         N15687 N15230  100u  TC=0,0 
D_D3         N15687 0 D1N4148 
R_R3         N16509 VDD  3.3k TC=0,0 
X_U3B         IN N16509 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R4         N16714 N16946  3.3k TC=0,0 
X_U3C         IN N16714 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
Q_Q1         N16946 N17094 N16953 Q2N3904
R_R5         0 N16953  1k TC=0,0 
R_R6         N16946 VDD  47 TC=0,0 
R_R7         N16509 N17094  1k TC=0,0 
X_U4B         IN N18441 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4C         IN N18572 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R9         N18572 VDD2  1k TC=0,0 
V_V2         VDD2 0 12
R_R10         N18441 VDD2  250k TC=0,0 
